Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lifestyle limiting left lower extremity claudication
 
Major Surgical or Invasive Procedure:
___: Left lower extremity with placement of a left common 
iliace artery stent via bilateral commonfemoral artery access. 

 
History of Present Illness:
Mr. ___ presents for initial
evaluation of his 6-week history of left leg fatigue after
ambulating 50-100 feet.  He has a history of spinal stenosis and
is status 6 weeks post laminectomy of L2 through L5 at ___.  Prior to this procedure, he was able
to ambulate 100 feet and then was limited by back pain.  Since
undergoing the procedure, he is only able to ambulate 50-100
feet, and has to stop and sit for ___ minutes before his left 
leg
fatigue improves.  Prior to the procedure, he was also able to
climb 6 flights of stairs without any leg pain.  Now he is only
able to climb one flight of stairs before he needs to stop and
sit for ___ minutes because of left leg fatigue.  This short
distance claudication is interfering with his ability to
participate in physical therapy after undergoing aforementioned
laminectomy.  He denies rest pain, lower extremity ulcerations,
paresthesias, blue toes.

 
Past Medical History:
Former tobacco use ___ years, spinal stenosis, arthritis
CHILDHOOD SCARLET FEVER WITH LEFT EAR DEAFNESS                  
DIABETES TYPE II                                                
Complicated by retinopathy (mild NPDR OD, Dr. ___,          
neuropathy in feet.  See  ___ NP at ___.         
HYPERLIPIDEMIA                                                  
HYPERTENSION                                                    
Mild symmetric LVH by echo ___                              
HYPOTHYROIDISM                                                  
LUMBAGO                                                         
ANEMIA                                                          
PERIPHERAL VASCULAR DISEASE                                     
COLONIC ADENOMA                                                 
Multiple adenomas (2 were 1.5cm) by colonoscopy ___ (Dr.     
___ FMH of CRC  in pt's mother.                             
R SHOULDER PAIN  

SURGICAL: 
TONSILLECTOMY           
Laminectomy of L2 through L5, ___, ___ as above, ___ right hip replacement, ___ 
right
wrist ORIF .

 
Social History:
___
Family History:
2 brothers with dyslipidemia, heart attack, heart failure,
hypertension and peripheral arterial disease status post lower
extremity bypass,  
sister with dyslipidemia
 
Physical Exam:
Physical exam on discharge:
Gen: alert, oriented, calm, no distress
CV: RRR
pulm: nonlabored breathing on room air
abd: soft, nontender, nondistended
extrem: R: P//P/D L: P//P/D (preop DP was only D)
 
Brief Hospital Course:
The patient was brought to the operating room on ___ and 
underwent left leg angio, L CIA stenting via L and R CFA.  The 
procedure was without complications. Please see operative note 
for details. He was closely monitored in the PACU and then 
transferred to the floor in stable condition where he remained 
hemodynamically stable. His diet was gradually advanced. He is 
ambulatory. He was discharged to home on POD #1 in stable 
condition.  Follow-up has been arranged with Dr. ___ 
appropriate prescriptions were given. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. GlipiZIDE 5 mg PO BID 
2. Levothyroxine Sodium 150 mcg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Rosuvastatin Calcium 10 mg PO QPM 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325 mg PO Q4H:PRN Pain - Moderate  
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  FaBB (folic acid-vit B6-vit B12) 2.2-25-1 mg oral DAILY  
4.  sildenafil 100 mg oral DAILY:PRN  
5.  Aspirin 81 mg PO DAILY  
6.  GlipiZIDE 5 mg PO BID  
7.  Glargine 40 Units Bedtime
Insulin SC Sliding Scale using REG Insulin 
8.  Levothyroxine Sodium 150 mcg PO DAILY  
9.  Lisinopril 40 mg PO DAILY  
10.  MetFORMIN (Glucophage) 1000 mg PO BID  
11.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atherosclerosis of the native vessels left lower extremity with 
lifestyle limiting claudication. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral angiogram.  To perform this procedure, a small 
puncture was made in both of your groins.  The puncture sites 
will heal on there own: there are no stitches to remove.   You 
tolerated the procedure well and are now ready to be discharged 
from the hospital.   Please follow the recommendations below to 
ensure a speedy and uneventful recovery.

Division of Vascular and Endovascular Surgery
Lower Extremity Angioplasty/Stent Discharge Instructions

MEDICATION:
•Continue Aspirin 81mg (enteric coated) once daily 
•Take Plavix (Clopidogrel) 75mg once daily for 30 days.
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
•When you go home, you may walk and use stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications

 
Followup Instructions:
___